US07208513B2
1-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL)-3-(3-PYRIDYLMETHOXY)BENZENE
The title compound was prepared from 3-(5-(1H-1,2,4-triazol-3-yl)-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenol (0.394 g, 0.65 mmol), triphenyl phosphine (0.685 g, 2.61 mmol), diethyl azodicarboxylate (0.41 mL, 2.61 mmol), 3-pyridylcarbinol (0.26 mL, 2.67 mmol) in tetrahydrofuran (2.5 mL) and was allowed to stir at room temperature overnight. To this mixture 6 N hydrogen chloride (20 mL) was added and allowed to stir at room temperature for 5 hours. This reaction was extracted with diethyl ether (3×), basified to pH˜11 with 6 N sodium hydroxide (aqueous), extracted with ethyl acetate (3×). The organic fractions were combined and dried with sodium sulfate, filtered, and condensed. The compound was purified by column chromatography (SiO2, 100% ethyl acetate in hexanes to 95% ethyl acetate in 5% methanol) and preparative HPLC (15–80% acetonitrile to H2O, 30 min.) (0.028 g, 12% yield over 2 steps): 1H NMR (CD3OD) δ 8.72 (m, 2H), 8.51 (dd, 1H), 8.11 (br s, 1H), 8.03 (dd, 1H), 7.68 (m, 3H), 7.50 (m, 2H), 7.13 (ddd, 1H), 5.30 (s, 2H); ES-MS (m/z) 369 [M+1]+.

reactant | 3-(5-(1H-1,2,4-triazol-3-yl)-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)phenol | 0.65 mmol, 0.394 g | N1N=C(N=C1)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C=CC1)O | C20H19N5O2
reactant | triphenyl phosphine | 2.61 mmol, 0.685 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.61 mmol, 0.41 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-pyridylcarbinol | 2.67 mmol, 0.26 mL | N1=CC(=CC=C1)CO | C6H7NO
reactant | hydrogen chloride | 20 mL | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL)-3-(3-PYRIDYLMETHOXY)BENZENE | 12% yield | N1N=C(N=C1)C=1C=C(C=C(C1)C1=NNC2=CC=CC=C12)OCC=1C=NC=CC1 | C21H16N6O
